US07381840B2
Next, to a solution of N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)-N′-(3-iodophenyl)urea (9.0 mg, 0.02 mmol) and 4-tolylboronic acid (3.60 mg, 0.03 mmol) in THF was added tetrakis(triphenylphosphine)palladium(0) (2.55 mg) followed by 0.1 mL of saturated sodium bicarbonate solution. The mixture was stirred for 3 hours at 90° C., then ethylacetate was added. The mixture was passed through a short pad of silica gel and was concentrated under reduced pressure to afford N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)-N′-(4′-methylbiphenyl-3-yl)urea (2.80 mg, 34% yield).

reactant | N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)-N′-(3-iodophenyl)urea | 0.02 mmol, 9.0 mg | OC1CCC=2C=CC=C(C2C1)NC(=O)NC1=CC(=CC=C1)I | C17H17IN2O2
reactant | 4-tolylboronic acid | 0.03 mmol, 3.60 mg | C1(=CC=C(C=C1)B(O)O)C | C7H9BO2
reactant | sodium bicarbonate | 0.1 mL | C([O-])(O)=O.[Na+]
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.55 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)-N′-(4′-methylbiphenyl-3-yl)urea | 2.80 mg, 34% yield | OC1CCC=2C=CC=C(C2C1)NC(=O)NC=1C=C(C=CC1)C1=CC=C(C=C1)C | C24H24N2O2
